US08877759B2
tert-butyl N-[[4-[5-[3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazin-2-yl]-1,3,4-oxadiazol-2-yl]phenyl]methyl]-N-methyl-carbamate (199.3 mg, 0.3785 mmol) was dissolved in dichloromethane (5 mL) followed by the addition of trifluoroacetic acid (500 μL, excess). The mixture was stirred at ambient temperature for 2 hours and then concentrated in vacuo to an oil. Azeotroped with dichloromethane/methanol. Compound was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 mM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% trifluoroacetic acid in water; solvent B: acetonitrile) over 16 minutes at 25 mL/minutes], combined fractions were then freeze-dried to give 2-[4-[5-amino-6-[5-[4-(methylaminomethyl)phenyl]-1,3,4-oxadiazol-2-yl]pyrazin-2-yl]-2-pyridyl]-2-methyl-propanenitrile Compound I-4 as a pale yellow powder (mono trifluoroacetic acid salt) (88.6 mg, 43.32% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 1.80 (s, 6H), 2.64 (t, J=5.0 Hz, 3H), 4.28 (t, J=5.4 Hz, 2H), 7.76 (d, J=8.3 Hz, 2H), 8.12 (dd, J=1.5, 5.3 Hz, 1H), 8.25 (d, J=8.3 Hz, 2H), 8.41 (s, 1H), 8.73 (d, J=5.2 Hz, 1H), 8.91 (s, 2H) and 9.18 (s, 1H) ppm; LC/MS m/z 427.0 [M+H]+.

reactant | tert-butyl N-[[4-[5-[3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazin-2-yl]-1,3,4-oxadiazol-2-yl]phenyl]methyl]-N-methyl-carbamate | 0.3785 mmol, 199.3 mg | NC=1C(=NC(=CN1)C1=CC(=NC=C1)C(C)(C)C#N)C1=NN=C(O1)C1=CC=C(C=C1)CN(C(OC(C)(C)C)=O)C | C28H30N8O3
reactant | trifluoroacetic acid | 500 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[4-[5-amino-6-[5-[4-(methylaminomethyl)phenyl]-1,3,4-oxadiazol-2-yl]pyrazin-2-yl]-2-pyridyl]-2-methyl-propanenitrile | 43.32% yield | NC=1N=CC(=NC1C=1OC(=NN1)C1=CC=C(C=C1)CNC)C1=CC(=NC=C1)C(C#N)(C)C | C23H22N8O
